US06225312B1
3.94 g (21.9 mmol) of 7-nitro-2-benzoxazolinone (for preparation of the latter compound, and European patent EPO189612 and references cited therein) were dissolved in 40 ml of DMSO after which 1.72 g of 85% powdered KOH (26.2 mmol) were added. While stirring and cooling (water) 3.72 g (26.2 mmol) of MeI dissolved in 6 ml of DMSO, were added dropwise over a period of 10 minutes. Stirring was continued at room temperature for 16 hrs, during the latter period an extra amount of MeI (0.5 g) was added. After the reaction was completed, the reaction mixture was diluted with water after which extraction took place with CH2Cl2. The combined organic fractions were washed with respectively water and brine after which the organic fraction was dried on MgSO4. After removal of the drying agent and evaporation of the solvent in vacuo, 4.1 g of a solid residue was left. Flash column chromatography (SiO2, eluent: CH2Cl2) of the latter yielded 3.6 g (85%) of pure 3-methyl-7-nitro-2-benzoxazolinone.

reactant | 7-nitro-2-benzoxazolinone | 21.9 mmol, 3.94 g | [N+](=O)([O-])C1=CC=CC=2NC(OC21)=O | C7H4N2O4
reactant | KOH | 26.2 mmol, 1.72 g | [OH-].[K+]
reactant | MeI | 26.2 mmol, 3.72 g | CI | CH3I
reactant | MeI | 0.5 g | CI | CH3I
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
solvent | DMSO | 6 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-methyl-7-nitro-2-benzoxazolinone | 3.6 g, 85% | CN1C(OC2=C1C=CC=C2[N+](=O)[O-])=O | C8H6N2O4
